US05284971
A suspension of methyl 3,5-dibromo-4-(4-hydroxy-3-isopropylphenylsulfonyl)phenylacetate (2.7 g, 0.0053 mol), from Example 2, in 30 mL sodium hydroxide (5%) was heated at 60° C. for 10 min. The reaction mixture was cooled and extracted with ethyl acetate. The aqueous phase was acidified with hydrochloric acid (6N) and extracted with ethyl acetate (2X). The combined extract was washed with water and brine and dried (Na2SO4). The residue obtained after removal of the solvent was crystallized from hexane-ethyl acetate to obtain 3,5-dibromo-4-(4-hydroxy-3-isopropylphenylsulfonyl)phenylacetic acid (2.5 g, 0.0051 mol, 96% yield), MP: 171°-172° C.

reactant | methyl 3,5-dibromo-4-(4-hydroxy-3-isopropylphenylsulfonyl)phenylacetate | 0.0053 mol, 2.7 g | BrC=1C=C(C=C(C1S(=O)(=O)C1=CC(=C(C=C1)O)C(C)C)Br)CC(=O)OC | C18H18Br2O5S
solvent | sodium hydroxide | 30 mL | [OH-].[Na+]
product | 3,5-dibromo-4-(4-hydroxy-3-isopropylphenylsulfonyl)phenylacetic acid | 0.0051 mol, 2.5 g, 96% yield | BrC=1C=C(C=C(C1S(=O)(=O)C1=CC(=C(C=C1)O)C(C)C)Br)CC(=O)O | C17H16Br2O5S
